US05606067
Preparation of pyridinium/β-methallyl chloride
This compound was prepared in a yield of 87% from pyridine and β-methallyl chloride in a manner similar to that described in Example 1.

reactant | β-methallyl chloride | CC(=C)CCl | C4H7Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | pyridinium β-methallyl chloride | yield of 87% | [NH+]1=CC=CC=C1.CC(=C)CCl | InChI=1S/C5H5N.C4H7Cl/c1-2-4-6-5-3-1;1-4(2)3-5/h1-5H;1,3H2,2H3/p+1
